Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ y.o female who presents to the ER after 
falling downstairs. Had a scalp laceration of the posterior left 
temporal area which was stapled by the ER. reports having back 
pain. Does not have any shortness of breath. No loss of 
consciousness. Also reports falling off her bike yesterday but 
reports doing well after that.
 
Past Medical History:
Past Medical History:
Depression
ADD

Past Surgical History:
C-Section
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Physical Exam:
Vitals: T- 97.9 ,HR - 70 ,BP - 135/71 ,RR-18 ,O2 sats- 98% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, Staples on the 
left temporal scalp area
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused

Discharge Physical Exam:
VS: 98.1, 116/67, 91, 18, 98 Ra 
Gen: A&O x3, grimacing in pain with movement
HEENT: posterior scalp lac w/ staples / dried blood
CV: HRR
Pulm: trace crackles in left upper lobe. 
Abd: soft, NT/ND
Torso: extensive left hip and buttocks ecchymosis
Ext: LLE shin lac with suture. No edema. 
 
Pertinent Results:
___ 06:30AM BLOOD WBC-6.4 RBC-2.36* Hgb-8.0* Hct-24.1* 
MCV-102* MCH-33.9* MCHC-33.2 RDW-12.3 RDWSD-45.1 Plt ___
___ 07:05AM BLOOD WBC-8.5 RBC-2.62* Hgb-8.8* Hct-27.0* 
MCV-103* MCH-33.6* MCHC-32.6 RDW-12.2 RDWSD-45.5 Plt ___
___ 06:36AM BLOOD WBC-6.3 RBC-2.91* Hgb-9.7* Hct-29.6* 
MCV-102* MCH-33.3* MCHC-32.8 RDW-12.4 RDWSD-46.5* Plt ___
___ 04:05AM BLOOD WBC-12.0* RBC-3.61* Hgb-11.8 Hct-36.3 
MCV-101* MCH-32.7* MCHC-32.5 RDW-12.4 RDWSD-46.5* Plt ___
___ 07:05AM BLOOD Glucose-99 UreaN-9 Creat-0.5 Na-137 K-3.8 
Cl-99 HCO3-26 AnGap-16
___ 06:36AM BLOOD Glucose-125* UreaN-11 Creat-0.6 Na-138 
K-3.3 Cl-100 HCO3-24 AnGap-17
___ 04:05AM BLOOD Glucose-117* UreaN-13 Creat-0.8 Na-141 
K-5.1 Cl-102 HCO3-24 AnGap-20
___ 04:05AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Radiology: 
___ Thoracic & lumbar imaging: There are stable T12, L1
fractures.

___ Thoracic & lumbar MRI:
1. Burst fracture of T12 vertebral body with mild central/left
paracentral retropulsion, mildly narrowing the spinal canal, and
abutting but not deforming the left ventral spinal cord.  Cord
signal remains normal. 
2. Edema along the L1 superior endplate.  Nondisplaced fracture
of L1 left superior corner is better seen on preceding CT. 
3. Disruption of the anterior longitudinal ligament at T11-T12. 
Edema in the T11-T12 and T12-L1 discs.  No definite disruption 
of
the posterior longitudinal ligament seen. 
4. No evidence for edema in the ligamentum flavum or 
interspinous
ligaments. 
5. Fluid in the left T12-L1 facet joint may be either
degenerative or posttraumatic.  No clear evidence for facet 
joint
capsule disruption to clearly indicate posttraumatic etiology. 
6. Lower lumbar degenerative disease, as detailed above, with
moderate spinal canal narrowing and crowding of the intrathecal
nerve roots at L4-L5. 
7. Left posterior fifth and sixth rib fractures are again seen. 
8. Small bilateral pleural effusions with adjacent dependent
atelectasis, and additional indeterminate linear opacities in 
the
basal left lower lobe, are again noted. 

___ Chest imaging: There are no prior chest radiographs
available for review. 

___ CT L-spine: 
1. T12 burst fracture is described in detail in the concurrent
thoracic spine CT report. 
2. Nondisplaced fracture of the left superior corner of L1
vertebral body without loss of height. 
3. Lower lumbar degenerative disease with mild narrowing of the
thecal sac at L3-L4, moderate narrowing of the thecal sac at
L4-L5, right greater than left subarticular zone narrowing at
L3-L4 and L4-L5, as well as moderate narrowing of bilateral 
L3-L4
and right L4-L5 neural foramina. 

___ CT T-spine: 
1. Burst fracture of T12 vertebral body with approximately 50%
loss of height and mild central/left paracentral retropulsion,
mildly narrowing the spinal 
canal. 
2. Nondisplaced fracture of the left superior corner of L1. 
3. Nondisplaced left posterior fifth rib fracture and minimally
displaced left posterior sixth rib fracture. 
4. Tiny left apical pneumothorax.  Trace dependent left pleural
effusion with small foci of air. 
5. Minimal dependent secretions in the upper thoracic trachea. 
6. Moderate bilateral dependent atelectasis. 

___ CT Head: 
1. No evidence for acute intracranial abnormalities. 
2. Bilateral subgaleal hematomas near the vertex.  Left parietal
scalp laceration status post staple repair.  No fracture seen. 

___ CT C-spine: 
1. No fracture. 
2. Minimal retrolisthesis of C6 on C7 is most likely
degenerative, though there are no comparison exams to confirm
chronicity. 
3. Multilevel degenerative disease. 
4. Small left apical pneumothorax, assessed more fully on the
concurrent thoracic spine CT. 
 
Brief Hospital Course:
Pt is a ___ yo F with a history of depression and ADD who 
presented to BI following a fall down a flight of stairs ___, 
+ETOH. Pt was admitted with a scalp laceration, T12 compression 
fracture, non-displaced L1 fracture, non-displaced posterior 
left 5th rib fracture, minimally displaced posterior left ___ 
rib fracture, small left apical pneumothorax, left pleural 
effusion, and a large left hip/buttock hematoma. MRI revealed no 
involvement of spinal canal or cord. Neurosurgery was consulted 
and found no neurological deficits on exam; they recommended 
TLSO for comfort and outpatient follow-up. The scalp laceration 
was stapled. The patient was admitted for pain control, 
monitoring of respiratory status, and ___ evaluation. The patient 
was hemodynamically stable.

Pain was well controlled. Tertiary exam was completed and 
unremarkable.  Repeat CXR showed small stable pneumothorax, not 
enlarging. The patient was fitted with a TLSO brace. Physical 
Therapy evaluated the patient and cleared her for discharge home 
with home ___ and ___ services. During this hospitalization, the 
patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home with services. The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
TraZODone 50 mg PO QHS 
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Cyclobenzaprine 5 mg PO TID:PRN back spasm 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
4.  Lidocaine 5% Patch 1 PTCH TD QAM LBP  
5.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
6.  Polyethylene Glycol 17 g PO DAILY  
7.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Injuries:
Left hip hematoma  
Scalp laceration  
Left ___ rib Fracture  
Left apical pneumothorax  
T12 burst fracture  
L1 body fracture  
Left buttock/hip hematoma  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ after a fall. You had multiple 
injuries, including a scalp laceration, left sided rib fractures 
with an associated lung injury, thoracic and lumbar spine 
fractures, and a right hip hematoma. The Neurosurgery team was 
consulted and recommended a TLSO brace for comfort and no 
activity restrictions. The spine fractures will heal on their 
own without surgery. You should follow-up in the Spine clinic. 
Your blood counts were closely monitored and your labs are 
stable. You have worked with Physical Therapy and are medically 
cleared now for discharge home with home ___ services. Please 
note the following instructions:

* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___